US04456464
In the same way, dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonate and phosphorus pentasulfide are reacted together to yield O,O'-dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonothioate

reactant | dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonate | [N+](=O)([O-])C1=C(OCP(OC)(OC)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H14ClF3NO7P
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | O,O'-dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonothioate | [N+](=O)([O-])C1=C(OCP(OC)(OC)=S)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H14ClF3NO6PS
